US09315525B2
Synthesis of 4,4,5,5-tetramethyl-2-(pent-1-ynyl)-1,3,2-dioxaborolane (IIIc)
To a stirred solution of IIc′ (5 mL, 51 mmol) in dry THF (25 mL) at −78° C. was added n-BuLi (2.5 M in n-hexane, 22.4 mL, 56 mmol). Another flask was charged with 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (10.4 mL, 51 mmol) in dry THF (50 mL) under argon atmosphere, and the reaction mixture was cooled to −78° C. The lithium acetylide from the first flask, which was cooled to −78° C., was slowly added to the second by a double-ended needle. The mixture was stirred at −78° C. for 2 hours, after which anhydrous HCl (56 mmol) was added. Then, reaction mixture was warmed to room temperature. After removal of the precipitated LiCl by filtration and removal of solvents under reduced pressure, the residue was purified by distillation (115-125° C./15 mbar) to afford IIIc (6.3 g, 64%) as an oil.

reactant | n-BuLi | 56 mmol, 2.5 M, 22.4 mL | [Li]CCCC
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 51 mmol, 10.4 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
reactant | HCl | 56 mmol | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4,4,5,5-tetramethyl-2-(pent-1-ynyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C#CCCC)C | C11H19BO2
